US05185363
Methyl 4-butoxycinnamate was prepared according to the method of Example 1, part a, except using methyl 4-hydroxycinnamate instead of 4-hydroxyacetophenone and using 1-bromobutane instead of benzylbromide.

reactant | methyl 4-hydroxycinnamate | OC1=CC=C(C=CC(=O)OC)C=C1 | C10H10O3
reactant | 1-bromobutane | BrCCCC | C4H9Br
product | Methyl 4-butoxycinnamate | C(CCC)OC1=CC=C(C=CC(=O)OC)C=C1 | C14H18O3
